US06875765B2
Step 8: (S)-3-[6-Methoxy-2-(2-quinolin-4-yl-ethoxy)-pyridin-3-sulfonylamino]-4-oxo-butyric acid
(S)-3-[6-Methoxy-2-(2-quinolin-4-yl-ethoxy)-pyridin-3-sulfonylamino]-4-oxo-butyric acid tert-butyl ester (0.18 g, 0.35 mmol) was stirred in 5 mL of a solution of 25% TFA in CH2Cl2 at room temperature for 2 h. Analytical HPLC indicated the reaction was complete. The reaction mixture was concentrated. Residual TFA was azeotroped with toluene. The crude product was purified by preparative-scale reverse phase HPLC (0 to 30% acetonitrile in H2O with 0.1% TFA over 2.5 hours at 15 mL/min on Vydac 2.5×25 cm C18 column) to give 0.053 g (0.12 mmol, 33%) of (S)-3-[6-methoxy-2-(2-quinolin-4-yl-ethoxy)-pyridin-3-sulfonylamino]-4-oxo-butryric acid as a fluffy white solid. MS (APCI) m/z 460.2 (M+1). 1H NMR (300 MHz) CD3OD 9.03 (m, 1H), 8.63 (d, J=8.4 Hz, 1H), 7.94-8.23 (m, 5H), 6.39 (d, J=8.4 Hz, 1H), 4.97 (m, 2H), 4.43 (dd, 1H), 3.96 (m, 2H), 3.88 (d, 3H), 3.48 (m, 1H), 2.46-2.60 (m, 1H), 2.24-2.38 (m, 1H)

reactant | (S)-3-[6-Methoxy-2-(2-quinolin-4-yl-ethoxy)-pyridin-3-sulfonylamino]-4-oxo-butyric acid tert-butyl ester | 0.35 mmol, 0.18 g | C(C)(C)(C)OC(C[C@@H](C=O)NS(=O)(=O)C=1C(=NC(=CC1)OC)OCCC1=CC=NC2=CC=CC=C12)=O | C25H29N3O7S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-3-[6-Methoxy-2-(2-quinolin-4-yl-ethoxy)-pyridin-3-sulfonylamino]-4-oxo-butyric acid | COC1=CC=C(C(=N1)OCCC1=CC=NC2=CC=CC=C12)S(=O)(=O)N[C@@H](CC(=O)O)C=O | C21H21N3O7S
